US05171753
α,α',α"-[Nitrilotris(methylene)]trisbenzenemethanol.
A mixture of styrene oxide (2.40 g, 0.020 mol) and 2-amino-1-phenylethanol (4.11 g, 0.030 mol) was heated in an oil bath at 125° C. for 3 hours. The reaction mixture was cooled, dissolved in 15 mL of methanol, and the solution poured into 100 mL of water. The mixture was extracted with 2×75 mL portions of methylene chloride, the extracts combined, dried (magnesium sulfate) and concentrated to give a yellow oil that showed several products on tlc analysis. To purify, the oil was dissolved in methylene chloride (50 mL) and extracted with 2×50 mL portions of 1N HCl solution. A precipitate appeared in the methylene chloride layer which was collected and shown by mass spectral analysis to be the product. NMR analysis showed the solid to be the hydrochloride salt. The solid (0.48 g, 6% yield) was recrystallized from methanol-isopropyl ether; mp 206°-208° C. This compound is reported in Arch Pharm 293, 27-28 (1960) (CA 54:18417 g).

reactant | styrene oxide | 0.020 mol, 2.40 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | 2-amino-1-phenylethanol | 0.030 mol, 4.11 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | water | 100 mL | O | H2O
reactant | methanol isopropyl ether | CO.C(C)(C)OC(C)C
reactant | methanol | 15 mL | CO | CH4O
product | α,α',α"-[Nitrilotris(methylene)]trisbenzenemethanol | 0.48 g, 6% yield | N(CC(O)C1=CC=CC=C1)(CC(O)C1=CC=CC=C1)CC(O)C1=CC=CC=C1 | C24H27NO3
